US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with hexahydrobenzaldehyde as described in Example 11 to give 1-nitro-5-cyclohexyl-5,6-dihydropyrazolo[1,5-c]quinazoline. M.p.: 150°-152° C. Yield: 73.8%.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | hexahydrobenzaldehyde | C(C1CCCCC1)=O | C7H12O
product | 1-nitro-5-cyclohexyl-5,6-dihydropyrazolo[1,5-c]quinazoline | Yield: 73.8% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2CCCCC2 | C16H18N4O2
